US06323227B1
C. 2-(R)-(3-Cyano-benzyl)-3(R)-[4-(6-methoxy-pyridin-3-yl)-benzoylamino]-butyric acid methyl ester
To a stirred solution of 4-(6-methoxy-pyridin-3-yl)-benzoic acid (0.67 g, 2.54 mmol) in DMF (5 mL) is added DIPEA (0.44 mL, 2.54 mmol), TBTU (0.91 g, 2.54 mmol) and 2(R)-(3-Cyano-benzyl)-3(R)-amino-butyric acid methyl ester (0.59 g, 2.54 mmol). The solution is stirred overnight at room temperature. The reaction is diluted with EtOAc and washed with saturated sodium bicarbonate (3×), brine, dried over MgSO4, filtered and concentrated. The crude product is purified by flash chromatography (50% EtOAc/hexane to 60% EtOAc/hexane) to give the product as a white solid (0.83 g, 1.87 mmol). 1H NMR (CDCl3, 300 MHz) δ8.43 (d, 1H), 7.92 (d, 2H), 7.83 (dd, 1H), 7.63 (d, 1H), 7.30-7.55 (m, 4H), 6.87 (d, 1H), 4.42-4.53 (m, 1H), 3.98 (s, 3H), 3.66 (s, 3H), 2.85-3.08 (m, 3H), 1.28 (d, 3H).

reactant | 4-(6-methoxy-pyridin-3-yl)-benzoic acid | 2.54 mmol, 0.67 g | COC1=CC=C(C=N1)C1=CC=C(C(=O)O)C=C1 | C13H11NO3
reactant | DIPEA | 2.54 mmol, 0.44 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 2.54 mmol, 0.91 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 2(R)-(3-Cyano-benzyl)-3(R)-amino-butyric acid methyl ester | 2.54 mmol, 0.59 g | COC([C@@H]([C@@H](C)N)CC1=CC(=CC=C1)C#N)=O | C13H16N2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(R)-(3-Cyano-benzyl)-3(R)-[4-(6-methoxy-pyridin-3-yl)-benzoylamino]-butyric acid methyl ester | 1.87 mmol, 0.83 g | COC([C@@H]([C@@H](C)NC(C1=CC=C(C=C1)C=1C=NC(=CC1)OC)=O)CC1=CC(=CC=C1)C#N)=O | C26H25N3O4
